Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Bactrim DS
 
Attending: ___.
 
Chief Complaint:
hematuria, urinary retention
 
Major Surgical or Invasive Procedure:
___ Dr. ___, bladder biopsy

 
History of Present Illness:
Mr. ___ is a ___ with a history of BPH.  He states that he saw 
a urologist more than ___ years ago and was started on terazosin. 
 He also underwent urodynamics and cystoscopy around ___ years 
ago and was told that he will likely need an operation.  
Yesterday, he presented to the ED in urinary retention following 
4 days of weak stream.  A foley was placed and he was found to 
have a UTI.  He was discharged with a 7d course of cipro.  Last 
night he noticed blood in his catheter which got progressibly 
darker in appearanced.  He returned to the ED this morning.  His 
catheter was changed to a 3 way foley, he was hand irrigated 
with return of clots and he was placed on CBI.  A few hours 
later his drainage became bloody again and he was hand irrigated 
with further return of clots. 

 
Past Medical History:
Diabetes type 2, complicated by retinopathy
h/o syphilis
Angioedema
Glaucoma
BPH
spinal stenosis
s/p laminectomy
Paget's disease
s/p shoulder surgery
gout
lichen planus

 
Social History:
 

 
Physical Exam:
nad
Abd soft, nt/nd
Foley with clear yellow urine
 
Pertinent Results:
___ 08:30PM   HCT-37.7*
___ 11:00AM   GLUCOSE-238* UREA N-19 CREAT-1.1 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-27 ANION GAP-15
___ 3:15 pm URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    ___ I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 07:04PM BLOOD WBC-13.4* RBC-3.76* Hgb-11.2* Hct-34.0* 
MCV-90 MCH-29.7 MCHC-32.8 RDW-13.7 Plt ___
___ 07:18AM BLOOD WBC-12.1* RBC-3.62* Hgb-10.6* Hct-32.4* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-13.8 Plt ___
___ 07:18AM BLOOD Glucose-122* UreaN-14 Creat-1.2 Na-139 
K-3.7 Cl-102 HCO3-29 AnGap-12
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service with 
hematuria.  He underwent conservative management with CBI but 
continued to have hematuria when the CBI was clamped.  On HD3 he 
underwent cystoscopy and bladder biopsy. No obvious bleeding 
source was identified. No concerning intraoperative events 
occurred; please see dictated operative note for details. The 
patient received ___ antibiotic prophylaxis. On POD1 
he underwent a voiding trial but failed and a foley was 
replaced.  The evening of POD1 he developed fevers and chills.  
His WBC was elevated to 13.  Urine and blood cultures were 
obtained and are still pending.  CXR was normal.  He deferveced 
on POD2 and his WBC count was decreasing.  At discharge, 
patient's pain well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
urine is clear yellow. He will be discharged with a total 3 week 
course of cipro.  He is given explicit instructions to call Dr. 
___ follow-up next week to have the catheter removed.
 
Medications on Admission:
BIMATOPROST [LUMIGAN] - 0.03 % Drops - one drop each eye once a
day
METFORMIN - 500 mg Tablet - 1 Tablet(s) by mouth twice a day
TADALAFIL [CIALIS] - 20 mg Tablet - one Tablet(s) by mouth 60 
min
prior to intercourse Do not take more than once per day.
TERAZOSIN - 5 mg Capsule - 1 Capsule(s) by mouth once a day
TRIAMCINOLONE ACETONIDE - 0.1 % Ointment - apply after shower
every other day
ASPIRIN -  (OTC) - 81 mg Tablet, Delayed Release (E.C.) - 1
Tablet(s) by mouth once a day
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] -  (OTC; record) - 
Dosage
uncertain
GARLIC -  (OTC) - Dosage uncertain

 
Discharge Medications:
1. bacitracin zinc 500 unit/g Ointment Sig: One (1) Appl Topical 
QID (4 times a day).  
2. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 16 days.
Disp:*32 Tablet(s)* Refills:*0*
3. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
4. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic DAILY 
(Daily).  
5. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. terazosin 5 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).
Disp:*30 Capsule(s)* Refills:*2*
7. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.
Disp:*15 Tablet(s)* Refills:*0*
8. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
9. metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
hold if diarrhea.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hematuria, BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-No vigorous physical activity for 2 weeks. 

 

-Expect to see occasional blood in your urine and to experience 
urgency and frequecy over the next month. 

 

-You may shower and bathe normally. 

 

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

 

-Do not drive or drink alcohol while taking narcotics

 

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.

 

-Resume all of your home medications, except hold NSAID 
(aspirin,  and ibuprofen containing products such as advil & 
motrin,) until you see your urologist in follow-up

 

 -Resume all of your home medications, but please avoid 
aspirin/advil for one week.   

- Ciprofloxacin has been prescribed.  You will take a total of 3 
week course.
 

-Call Dr. ___ (___) for follow-up AND if you 
have any questions (page Dr. ___ at ___. 

 

 -If you have fevers > 101.5 F, vomiting, severe abdominal pain, 
or inability to urinate, call your doctor or go to the nearest 
emergency room.

 
Followup Instructions:
___